US06331538B1
3-Benzyloxy-1-cyclopropyl-6-fluoro-7-(4-methylpiperazinyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example K-2, the reaction of N-benzyloxy-2-cyclopropylamino-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxamide (Example J-2, 160 mg, 0.42 mmol) with CDI (135 mg, 0.83 mmol) in chloroform (2 mL) and purification of the reaction mixture by flash chromatography on a silica gel with 5% of MeOH/dichloromethane as eluent provided 125 mg of the title compound as powder, mp 188-189° C.

reactant | N-benzyloxy-2-cyclopropylamino-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxamide | 0.42 mmol, 160 mg | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)N1CCN(CC1)C)NC1CC1 | C21H26FN5O2
reactant | CDI | 0.83 mmol, 135 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH dichloromethane | CO.ClCCl
product | 3-Benzyloxy-1-cyclopropyl-6-fluoro-7-(4-methylpiperazinyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 125 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCN(CC2)C)F)C2CC2)=O | C22H24FN5O3
